US07514448B2
2-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-thiazol-4-yl amine
Trifluoroacetic acid (1 mL) was added to a stirred solution of [2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-4-yl]-carbamic acid tert-butyl ester (0.1 g, 0.316 mmol) in CH2Cl2 (2 mL) and stirred at room temperature for 2 h. The solution was poured into ice/water and basified with saturated NaHCO3 and extracted with EtOAc (3×25 mL). The combined organic extracts were dried and concentrated to afford title compound as a pale green solid (0.058 g, 85%); Mass Spec.; MS 217 (M+1)

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-4-yl]-carbamic acid tert-butyl ester | 0.316 mmol, 0.1 g | C(C)(C)(C)OC(NC=1N=C(SC1)C1=CNC2=NC=CC=C21)=O | C15H16N4O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-thiazol-4-yl amine | 0.058 g, 85% | N1C=C(C=2C1=NC=CC2)C=2SC=C(N2)N | C10H8N4S
